data/oMe_Silver.jsonl
{"reaction_id": "NR-104_1-C1CCCCC1","level": "medium","name": "Hell-Volhard-Zelinsky Reaction","reactants_smiles": ["C(C1CCCCC1)C(=O)O","P","BrBr"],"products_smiles": ["C(C1CCCCC1)(Br)C(=O)Br"],"conditions": "","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "electrophilic_substitution","intermediate_smiles": "C(C1CCCCC1)C(=[O])[OH+]P(Br)Br","step_weight": 0,"rationale": "PBr3 activates the carboxylic acid by converting the OH into a better leaving group via formation of a phosphonium intermediate, driven by the strong P–O bond formation and good leaving ability of bromophosphates."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(C1CCCCC1)C(=O)Br","step_weight": 0,"rationale": "Bromide ion displaces the activated leaving group in an SN2-like process, favored by the electrophilic carbonyl carbon and the excellent leaving group ability of the phosphonium ester."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)=C([OH])Br","step_weight": 0,"rationale": "Base-induced deprotonation at the α-position forms the enol, stabilized by resonance with the adjacent carbonyl, making the α-carbon nucleophilic for subsequent electrophilic attack."},{"step": 4,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "C(C1CCCCC1)(Br)C(=[OH+])Br","step_weight": 0,"rationale": "The electron-rich enol double bond attacks molecular bromine, with electrophilic bromination favored at the α-carbon due to resonance stabilization of the resulting carbocation intermediate."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(C1CCCCC1)(Br)C(=O)Br","step_weight": 0,"rationale": "Proton transfer restores the carbonyl from the enol, driven by the thermodynamic stability of the C=O bond over the C–OH form."}],"description": "In the Hell–Volhard–Zelinsky reaction, the carboxylic acid is first converted to an acyl bromide via phosphorus tribromide, enabling α-bromination through enol formation and electrophilic bromination. Subsequent tautomerization regenerates the carbonyl, yielding the α-bromoacyl bromide product efficiently."}
{"reaction_id": "NR-225_1-c1ccc(cc1)C=C","level": "medium","name": "Pinnick-Lindgren Oxidation","reactants_smiles": ["C(c1ccc(cc1)C=C)C=O","Cl(=O)([O-])"],"products_smiles": ["C(c1ccc(cc1)C=C)C(=O)O"],"conditions": "NaH2PO4, t-BuOH, 2-methyl-2-butene","mechanism_step_nums": 2,"mechanism": [{"step": 1,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C(c1ccc(cc1)C=C)C(O)O(Cl=O)","step_weight": 0,"rationale": "The aldehyde carbonyl is highly electrophilic due to the polarized C=O bond, enabling nucleophilic attack by chlorite under buffered conditions, forming a tetrahedral intermediate stabilized by adjacent oxygen lone pairs."},{"step": 2,"type": "rearrangement","subtype": "rearrangement","intermediate_smiles": "C(c1ccc(cc1)C=C)C(=O)O","step_weight": 0,"rationale": "Rearrangement proceeds as electron shifts favor formation of the more stable carboxylate, driven by strong thermodynamic stability of the C=O in acids and elimination of HClO as a good leaving group."}],"description": "In the Pinnick-Lindgren oxidation, chlorite ion selectively oxidizes aldehydes to carboxylic acids under mild, buffered conditions. Nucleophilic attack on the electrophilic carbonyl initiates the process, followed by rearrangement to release oxidized product while minimizing side reactions via chlorine scavenging."}
